US08609656B2
Preparation of 4-(4-nitro-2-(trifluoromethyl)phenylethynyl)pyridine
In 20 mL of dimethylformamide, 1.0 g (3.7 mmol) of 4-bromo-3-(trifluoromethyl)nitrobenzene was dissolved, and 0.502 g (3.7 mmol) of 4-ethynylpyridine, 43 mg (3 mol %) of copper iodide, 78 mg (3 mol %) of dichlorobis(triphenylphosphine)palladium and 2.06 mL (0.56 mmol) of triethylamine were added thereto and the mixture solution was stirred overnight at 50° C. in an argon atmosphere. The reaction solution was partitioned between water and ethyl acetate and the organic layer was washed with a saturated sodium chloride solution and concentrated under reduced pressure. The residue was purified by a silica gel column (n-hexane:ethyl acetate=3:1) to obtain 1.3 g (quantitative) of a target product as an pale yellow oil.

reactant | 4-bromo-3-(trifluoromethyl)nitrobenzene | 3.7 mmol, 1.0 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3BrF3NO2
reactant | 4-ethynylpyridine | 3.7 mmol, 0.502 g | C(#C)C1=CC=NC=C1 | C7H5N
reactant | triethylamine | 0.56 mmol, 2.06 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | copper iodide | 43 mg | [Cu](I)I
catalyst | dichlorobis(triphenylphosphine)palladium | 78 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(4-nitro-2-(trifluoromethyl)phenylethynyl)pyridine | [N+](=O)([O-])C1=CC(=C(C=C1)C#CC1=CC=NC=C1)C(F)(F)F | C14H7F3N2O2
